US07138410B2
2-(1-Azabicyclo[2.2.2]oct-3-yl)-N-[4′-(hydroxymethyl)-1,1′-biphenyl-3-yl]acetamide Hydrochloride
24.0 mg (0.16 mmol) of 4-(hydroxymethyl)phenylboronic acid, 0.17 ml (0.34 mmol) of 2M aqueous sodium carbonate solution and 5.8 mg (0.01 mmol) of 1,1′-bis(diphenylphosphino)ferrocenepalladium(II) chloride are added to a solution of 75 mg (0.16 mmol) of 2-(1-azabicyclo[2.2.2]oct-3-yl)-N-(3-bromophenyl)acetamide hydrochloride in 1 ml of DMF. The reaction mixture is stirred at 80° C. for 14 h. A further 24.0 mg (0.16 mmol) of 4-(hydroxymethyl)phenylboronic acid, 23.2 mg (0.03 mmol) of 1,1′-bis(diphenylphosphino)ferrocenepalladium(II) chloride and 0.48 ml (0.48 mmol) of 1M sodium hydroxide solution are added. The mixture is then heated at 80° C. for a further 12 h. After the reaction is complete, the mixture is cooled, filtered through silica gel and then purified by preparative HPLC. The product fractions are concentrated, taken up in methanol, mixed with 4M HCl in dioxane and again concentrated. Drying under high vacuum results in 25.9 mg (39.8% of theory) of the title compound.

reactant | 4-(hydroxymethyl)phenylboronic acid | 0.16 mmol, 24.0 mg | OCC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | sodium carbonate | 0.34 mmol, 2M, 0.17 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-(1-azabicyclo[2.2.2]oct-3-yl)-N-(3-bromophenyl)acetamide hydrochloride | 0.16 mmol, 75 mg | Cl.N12CC(C(CC1)CC2)CC(=O)NC2=CC(=CC=C2)Br
reactant | 4-(hydroxymethyl)phenylboronic acid | 0.16 mmol, 24.0 mg | OCC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | sodium hydroxide | 0.48 mmol, 1M, 0.48 ml | [OH-].[Na+]
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
catalyst | 1,1′-bis(diphenylphosphino)ferrocenepalladium(II) chloride | 0.01 mmol, 5.8 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | 1,1′-bis(diphenylphosphino)ferrocenepalladium(II) chloride | 0.03 mmol, 23.2 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-(1-Azabicyclo[2.2.2]oct-3-yl)-N-[4′-(hydroxymethyl)-1,1′-biphenyl-3-yl]acetamide Hydrochloride | Cl.N12CC(C(CC1)CC2)CC(=O)NC=2C=C(C=CC2)C2=CC=C(C=C2)CO | InChI=1S/C22H26N2O2.ClH/c25-15-16-4-6-17(7-5-16)19-2-1-3-21(12-19)23-22(26)13-20-14-24-10-8-18(20)9-11-24;/h1-7,12,18,20,25H,8-11,13-15H2,(H,23,26);1H
